Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
L sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F w PMH HTN and HLD who presents to
___ ED from ___ for evaluation of recurrent episodes 
of
L sided weakness.

Ms. ___ has been seen at ___ multiple times over the
past month. Her presentations there are summarized as follows:

___ - P/w slurred speech in the morning. She states that this
was due to biting her tongue. Notes indicate that this occurred
while eating, though Ms. ___ denies this on direct
questioning. She does not recall how she bit her tongue, and
believes perhaps it happened in her sleep. CT and MRI were
negative for any acute intracranial. CTA was benign. TTE showed
EF was 60% and grade 1 diastolic dysfunction. Her ASA was
increased from 81 to 162mg qD, and she was started on
atorvastatin.

___ - P/w L sided numbness and weakness upon awakening at 6AM.
Code stroke called, tPA not advised. Increased ASA to 325mg qD. 
Sx resolved after ~24hrs.

___ - P/w L sided weakness and numbness upon awakening at 5AM.
Resolved after ~24 hrs.

Ms. ___ presents today with very similar symptoms. She
reports that upon awakening at 6AM, she felt that her left leg
was numb. She was able to "shuffle" to the bathroom with the use
of her cane. When she got back to her bed, she called her
granddaughter for help. Her granddaughter "checked my arm
strength and my face" and found that "I was weak and my left 
face
was swollen or something." She also states that her speech was
slurred at that time. Her granddaughter became concerned and 
took
Ms. ___ to the hospital for further evaluation.

They report that this episode is very similar to her other
presentations with the exception being that this time "all her
symptoms seemed to come on at once" (the numbness, weakness, and
slurred speech); whereas with previous presentations she would 
at
first experience symptoms in her left leg, followed by arms
symptoms, and face symptoms. They report that Ms. ___ did
return to baseline after the first two hospitalizations, though
it took a few days. She states that she had not yet fully
returned to baseline since her most recent hospitalization
("still a little bit in the cheek and arm").

At ___, speech was noted to be normal, and strength was
reported to be ___ on the left. Given concern for possible
complex partial seizures, Ms. ___ was transferred to ___ 
ED
for EEG and neurological evaluation.

Seizure screening - negative for history of seizures, history of
head trauma, nocturnal incontinence, CNS infections.

 
Past Medical History:
- ?TIAs (as above)
- HTN
- HLD
- dCHF
- hypothyroidism
- invasive ductal carcinoma of R breast
  - s/p lumpectomy
  - s/p radiation and chemotherapy
 
Social History:
___
Family History:
Mother - CVA at age ___
Father - CVA at age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS T:98.5 HR:65 BP:144/72 RR:19 SaO2:96RA
GEN - well appearing, well developed
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x 3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent if vague history. Structure
of speech demonstrates fluency with full sentences, and normal
prosody. No paraphasic errors. Intact repetition, naming, and
comprehension. Unable to check reading due to poor visual 
acuity.

CN - [II] PERRL 1.5 and sluggishly reactive. Poor visual acuity
secondary to macular degeneration. [III, IV, VI] EOMI. [V]
Reports decrement of L V1-V3 to LT and PP, ~50% of normal. [VII]
Does not activate well with volitional smile, requires 
persistent
coaching. Will intermittently activate the left corner of the
mouth, and then smile with only the right side. [VIII] Hearing
intact to voice. [IX, X] Palate elevation symmetric. No
dysarthria. [XI] SCM/Trapezius strength ___ bilaterally. [XII]
Tongue midline with full ROM.

MOTOR - Requires a great deal of encouragement to move left 
side.
When checking for pronator drift, she actively resists me when I
attempt to elevate the LUE. She is able to hold the LUE
antigravity, though quickly drifts downward without pronation.
There is give-way weakness throughout the left side making
accurate strength assessment very difficult.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  
L  4+*    4+*   4+*   4+*   4+*  4-*  4+*    4+*   4+*  4+*  
R  4+*     5     5     5     5    5    5      5     5    5    
*Give-way weakness.

SENSORY - Reports decrement to LT and PP over the LUE (50% of
normal) and LLE (25% of normal).

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [___]
L 2      2      2      *        0
R 2      2      2      1        0
Plantar response extensor on the L, down on the R.
*S/p L knee surgery.

COORD - No dysmetria on FNF w RUE, fair RAM with R hand. 
Performs
FNF very slowly with LUE and consistently misses target (aims
just below my finger every time, despite persistent correction).
Performs tapping of each finger to thumb correctly and 
accurately
with L hand x1, then on subsequent trials taps at the base of
each finger with the L thumb.

GAIT - Deferred.
==============================================
DISCHARGE PHYSICAL EXAM: 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: lateral range of motion of neck reduced bilaterally. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive, able to name ___ 
backward without difficulty. Language is fluent with intact 
repetition and comprehension. There were no paraphasic errors. 
Naming intact to high and low frequency objects. Able to follow 
both midline and appendicular commands. 

-Cranial Nerves: PERRL 1.5 and sluggishly reactive.  EOMI 
without nystagmus except limited upgaze. Saccdic intrusions. 
Normal saccades (vertical and horizontal). Facial sensation 
intact to light touch. Face symmetric at rest and with 
activation. Hearing intact to conversation. Palate elevates 
symmetrically.  Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout except bilateral ___ 
atrophy. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  4+*  ___ 5  4+ ___    5  5     5     5   4
R  5    ___   5  4+ ___    5  5     5     5   4

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    *   0                     
 R  2  2    2    1   0                     
Plantar response was mute bilaterally.
* s/p L knee surgery

 
Pertinent Results:
___ 11:25AM BLOOD WBC-5.0 RBC-4.06 Hgb-13.6 Hct-41.3 
MCV-102* MCH-33.5* MCHC-32.9 RDW-12.9 RDWSD-48.3* Plt ___
___ 06:30AM BLOOD WBC-4.6 RBC-3.73* Hgb-12.7 Hct-37.9 
MCV-102* MCH-34.0* MCHC-33.5 RDW-13.0 RDWSD-48.1* Plt ___
___ 11:25AM BLOOD Glucose-117* UreaN-20 Creat-0.8 Na-143 
K-5.6* Cl-105 HCO3-29 AnGap-15
___ 06:30AM BLOOD Glucose-110* UreaN-18 Creat-0.8 Na-146* 
K-4.3 Cl-107 HCO3-29 AnGap-14
___ 06:30AM BLOOD ALT-16 AST-17 LD(LDH)-171 AlkPhos-85 
TotBili-0.6
___ 06:30AM BLOOD TSH-1.7
___ 12:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 12:25PM URINE RBC-1 WBC-7* Bacteri-FEW Yeast-NONE Epi-3

IMAGING:
1. Multilevel cervical spondylosis worse at C5-C6 with moderate 
spinal canal stenosis flattening the ventral spinal cord without 
evidence of cord edema. Additional areas of multilevel 
degenerative changes, as detailed above.

EEG ___: This is a normal continuous EMU monitoring study. 
Generalized 
beta activity seen is likely a medication effect, commonly 
associated with 
benzodiazepines and barbiturates. There are no focal findings, 
epileptiform discharges or electrographic seizures. 

EEG ___: This is a normal continuous EMU monitoring study. 
Generalized 
beta activity seen is likely a medication effect, commonly 
associated with 
benzodiazepines and barbiturates. There are no focal findings, 
epileptiform discharges or electrographic seizures. Compared to 
the previous days' recording, there are no significant changes. 

 
Brief Hospital Course:
Ms. ___ was admitted with recurrent episodes of L-sided 
weakness and numbness on awakening. Exam was notable for reduced 
Neck ROM, BLE spasticity and significant functional overlay. 
Given exam and timing of symptoms on awakening, suspicion was 
high for cervical spondylosis. MRI C-spine revealed cervical 
spondylosis. She was treated with soft cervical collar and 
physical therapy. 

======================================
Transitional Issues: 
[ ] consider necessity of ASA 325 if it was increased from 81mg 
to 325 mg due to the assumption that the events prompting 
presentation were vascular in etiology. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. Furosemide 10 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. TraZODone 100 mg PO QHS 
6. amLODIPine 5 mg PO DAILY 
7. Levothyroxine Sodium 150 mcg PO DAILY 
8. Eye Health Plus Lutein (vit A,C and E-lutein-minerals) 1,000 
unit-200 mg-60 unit-2 mg oral DAILY 
9. Calcium Carbonate 500 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Calcium Carbonate 500 mg PO DAILY  
5.  Eye Health Plus Lutein (vit A,C and E-lutein-minerals) 1,000 
unit-200 mg-60 unit-2 mg oral DAILY  
6.  Furosemide 10 mg PO DAILY  
7.  Levothyroxine Sodium 150 mcg PO DAILY  
8.  Losartan Potassium 25 mg PO DAILY  
9.  TraZODone 100 mg PO QHS  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cervical spondylosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, 
You were admitted with episodes of left sided numbness and 
weakness. We found that you have arthritis in your neck, and 
after you sleep, sometimes the pressure from the arthritis on 
your spinal cord causes your symptoms. To help with this, wear a 
soft cervical collar at night. 

Continue to work with Physical Therapy, which will also help 
with the symptoms from the arthritis in your neck.  

We wish you all the best. 

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___